US05574055
5.5 g (15.0 mmol) of t-butyl 4-(4-ethoxycarbonylamino-phenyl)-piperidine-1-carboxylate and 20 g (0.15 mol) of (RS)-4-(methoxymethyl)-1,3-dioxolan-2-one were stirred intensively in the presence of 2.37 g of pyridine for 18 hours at an oil bath temperature of 160°. After cooling the reaction mixture it was chromatographed on 840 g of silica gel 60 with ether. 3.4 g of t-butyl (RS)-4-[4-(5-methoxymethyl-2-oxo-oxazolidin-3-yl)-phenyl]-piperidine-1-carboxylate were obtained as a yellowish oil. 1H-NMR (CDCl3) ppm: 7.48 (d,2H), 7.22 (d,2H), 4.76 (m,1H), 4.25 (bd,2H), 4.05 (t,1H), 3.92 (t,1H), 3.64 (d,2H), 3.43 (s,3H), 2.80 (t,2H), 2.64 (m,1H), 1.78 (bd,2H), 1.61 (m,2H), 1.49 (s,9H).

reactant | t-butyl 4-(4-ethoxycarbonylamino-phenyl)-piperidine-1-carboxylate | 15.0 mmol, 5.5 g | C(C)OC(=O)NC1=CC=C(C=C1)C1CCN(CC1)C(=O)OC(C)(C)C | C19H28N2O4
reactant | (RS)-4-(methoxymethyl)-1,3-dioxolan-2-one | 0.15 mol, 20 g | COCC1OC(OC1)=O | C5H8O4
solvent | pyridine | 2.37 g | N1=CC=CC=C1 | C5H5N
product | t-butyl (RS)-4-[4-(5-methoxymethyl-2-oxo-oxazolidin-3-yl)-phenyl]-piperidine-1-carboxylate | 3.4 g | COCC1CN(C(O1)=O)C1=CC=C(C=C1)C1CCN(CC1)C(=O)OC(C)(C)C | C21H30N2O5
